US09102591B2
2,3-dichloro-N-((4-(2-methylpyrimidin-5-yl)tetrahydro-2H-pyran-4-yl)methyl)benzamide
From 2,3-dichlorobenzoic acid and (4-(2-methylpyrimidin-5-yl)tetrahydro-2H-pyran-4-yl)methanamine. LCMS (MH+): m/z=380.1, tR (minutes, Method F)=1.80

reactant | 2,3-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | (4-(2-methylpyrimidin-5-yl)tetrahydro-2H-pyran-4-yl)methanamine | CC1=NC=C(C=N1)C1(CCOCC1)CN | C11H17N3O
product | 2,3-dichloro-N-((4-(2-methylpyrimidin-5-yl)tetrahydro-2H-pyran-4-yl)methyl)benzamide | ClC1=C(C(=O)NCC2(CCOCC2)C=2C=NC(=NC2)C)C=CC=C1Cl | C18H19Cl2N3O2
